US07977331B1
To a solution of ethyl (R)-piperidine-3-carboxylate (10.00 g, 63.6 mmol) in diethyl ether (100 ml) was added dropwise di-tert-butyl dicarbonate (16.00 g, 73.2 mmol) under ice-cooling, and the mixture was stirred for 40 min. The solvent was evaporated under reduced pressure to give 1-tert-butyl 3-ethyl (R)-piperidine-1,3-dicarboxylate (16.80 g). The obtained compound was used for Step 2 without purification.

reactant | ethyl (R)-piperidine-3-carboxylate | 63.6 mmol, 10.00 g | N1C[C@@H](CCC1)C(=O)OCC | C8H15NO2
reactant | di-tert-butyl dicarbonate | 73.2 mmol, 16.00 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-tert-butyl 3-ethyl (R)-piperidine-1,3-dicarboxylate | 16.80 g | N1(C[C@@H](CCC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
